US05109012
2-(2,6-Dichloro-4-trifluoromethylphenyl]-4-[2,2-di(methylthio)ethyl]-2H-1,2,3-triazole was treated with N-bromosuccinimide in aqueous acetonitrile., After 10 minutes the mixture was added to water and extracted with diethyl ether. The extract was worked up to give crude 2-(2,6-dichloro-4-trifluoromethylphenyl)-2H-1,2,3-triazole-4-acetaldehyde. This was then treated with diaminomaleonitrile in a similar manner to Example 1, to give 2-(2,6-dichloro-4-trifluoromethyl-phenyl]-4-[2-(2-amino-1,2-dicyanoethenylimino)ethyl]-2H-1,2,3-triazole, which was cyclised in a similar manner to Example 1a, to give 2-(2,6-dichloro-4-trifluoromethyl-phenyl)-4-[(4,5-dicyano-1H-imidazol-2-yl)methyl]-2H-1,2,3-triazole (Compound 30).

reactant | 2-(2,6-Dichloro-4-trifluoromethylphenyl]-4-[2,2-di(methylthio)ethyl]-2H-1,2,3-triazole | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=CC(=N1)CC(SC)SC | C13H12Cl2F3N3S2
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | water | O | H2O
reactant | diaminomaleonitrile | N/C(=C(/C#N)\N)/C#N | C4H4N4
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-(2,6-dichloro-4-trifluoromethyl-phenyl]-4-[2-(2-amino-1,2-dicyanoethenylimino)ethyl]-2H-1,2,3-triazole | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=CC(=N1)CC=NC(=C(C#N)N)C#N | C15H8Cl2F3N7
